US05236952
15.0 g of 4'-hydroxy-3'-methoxy-2-methyl-propiophenone are dissolved in 300 ml of glacial acetic acid and 7.65 ml of 50.5 percent nitric acid (11.2N) in 40 ml of glacial acetic acid are added dropwise thereto while stiring within 15 minutes. After 15 minutes the reaction mixture is poured into ice-water and the separated crystals are filtered under suction, washed with water and dissolved in methylene chloride. The solution is dried over sodium sulfate and evaporated. The crude product obtained is taken up on methylene chloride and filtered over 100 g of silica gel. The thus-obtained crystals are recrystallized from methylene chloride/n-hexane. There is obtained 4'-hydroxy-3'-methoxy-2-methyl-5'-nitropropiophenone in the form of yellow crystals of m.p. 85°-87°.

reactant | 4'-hydroxy-3'-methoxy-2-methyl-propiophenone | 15.0 g | OC1=C(C=C(C=C1)C(C(C)C)=O)OC | C11H14O3
reactant | nitric acid | 11.2N, 7.65 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4'-hydroxy-3'-methoxy-2-methyl-5'-nitropropiophenone | OC1=C(C=C(C=C1[N+](=O)[O-])C(C(C)C)=O)OC | C11H13NO5
